US06001818
Antiviral Activity of 2'3'-dideoxy-2',3'-didehydrocytidine (2',3'-dideoxycytidin-2'-ene)
Nucleoside Analogs: One millimolar solutions were prepared in glass distilled water and filter sterilized through 0.2μ filters. Subsequent dilutions were prepared in RPMI 1640 medium containing 15% fetal calf serum, penicillin, streptomycin and glutamine.

reactant | penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
reactant | glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
product | 2'3'-dideoxy-2',3'-didehydrocytidine | One millimolar | [C@@H]1(C=C[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H11N3O3
